US04267325
1,2,3,4-Tetrahydro-2,4-dioxoquinazoline-6-sulphonic acid
2,4(1H, 3H)-Quinazolinedione (10 g) was added portionwise to a stirred mixture of 65% fuming sulphuric acid (10 ml) and concentrated sulphuric acid (40 ml) at room temperature. After the addition was complete, the mixture was stirred at 55°-60° for 30 minutes, cooled, poured onto ice (100 g) and stood in a refrigerator for 1 hour. The colourless crystals were filtered, washed with a little ice-cold 6 N hydrochloric acid and finally dried in a vacuum oven to give the hydrated title compound, (14.7 g, m.p. >300°).

reactant | 2,4(1H, 3H)-Quinazolinedione | 10 g | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | sulphuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2,3,4-Tetrahydro-2,4-dioxoquinazoline-6-sulphonic acid | 14.7 g | O=C1NC2=CC=C(C=C2C(N1)=O)S(=O)(=O)O | C8H6N2O5S
